US05990133
5-Methoxy-6-trifluoromethyl-1-[4-(pyridin-4-ylmethyloxy)phenyl carbamoyl]indoline
4-(Pyridin-4-ylmethyloxy)aniline (0.5 g, 2.5 mmol) was converted to the phenyl carbamate and treated with 5-methoxy-6-trifluoromethylindoline (0.54 g, 2.5 mmol) as in the method of Example 52. Chromatography using ethyl acetate as eluant followed by recrystallisation from ethyl acetate/petroleum ether (60-80°) afforded the title compound (0.23 g, 24%) as an off-white crystalline solid m.p. 205-207° C.

reactant | 4-(Pyridin-4-ylmethyloxy)aniline | 2.5 mmol, 0.5 g | N1=CC=C(C=C1)COC1=CC=C(N)C=C1 | C12H12N2O
reactant | phenyl carbamate | C(N)(OC1=CC=CC=C1)=O | C7H7NO2
reactant | 5-methoxy-6-trifluoromethylindoline | 2.5 mmol, 0.54 g | COC=1C=C2CCNC2=CC1C(F)(F)F | C10H10F3NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Methoxy-6-trifluoromethyl-1-[4-(pyridin-4-ylmethyloxy)phenyl carbamoyl]indoline | 0.23 g, 24% | COC=1C=C2CCN(C2=CC1C(F)(F)F)C(NC1=CC=C(C=C1)OCC1=CC=NC=C1)=O | C23H20F3N3O3
